US06903085B1
Step i: (2-Methylamino-ethyl)-carbamic acid tert-butyl ester
To a solution of (2-amino-ethyl)-carbamic acid-tert-butyl ester (5 g) and triethylamine (6.5 ml) in tetrahydrofuran (1000 ml) at 0° C. was added methyliodide (1.94 ml) dropwise over a period of 1 hour. The mixture was allowed to warm to ambient temperature and stirred for 72 hours before removal of solvents by evaporation. The residue was partitioned between ethyl acetate and water. The organic layer was separated, dried (MgSO4) and solvent removed by evaporation to give the title compound (3.7 g).

reactant | (2-amino-ethyl)-carbamic acid-tert-butyl ester | 5 g | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | triethylamine | 6.5 ml | C(C)N(CC)CC | C6H15N
reactant | methyliodide | 1.94 ml | CI | CH3I
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | (2-Methylamino-ethyl)-carbamic acid tert-butyl ester | 3.7 g | C(C)(C)(C)OC(NCCNC)=O | C8H18N2O2
